US08476297B2
Step 3: N-(2-Methyl-2-phenylpropyl)-4-(trifluoromethyl)benzamide
To a suspension of 2-methyl-2-phenylpropan-1-amine hydrochloride (5.32 g, 28.6 mmol) in dry DCM (60 mL) at 0° C. was added triethylamine (8.3 mL, 60.1 mmol) and then slowly 4-(trifluoromethyl)benzoyl chloride (4.48 mL, 30.1 mmol). Then, the mixture was stirred at RT for 45 min, diluted with EtOAc, washed with 10% HCl, sat NaHCO3 and water. After drying over Na2SO4 the solvent was removed under vacuum and the title compound was obtained as a white solid. MS (ESI, positive ion) m/z: 322 (M+H).

reactant | 2-methyl-2-phenylpropan-1-amine hydrochloride | 28.6 mmol, 5.32 g | Cl.CC(CN)(C)C1=CC=CC=C1
reactant | triethylamine | 60.1 mmol, 8.3 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(trifluoromethyl)benzoyl chloride | 30.1 mmol, 4.48 mL | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-Methyl-2-phenylpropyl)-4-(trifluoromethyl)benzamide | CC(CNC(C1=CC=C(C=C1)C(F)(F)F)=O)(C)C1=CC=CC=C1 | C18H18F3NO
